US07244721B2
Step 1. Preparation of Boc-Norvalinol
To a solution of Boc-norvaline (25.0 g, 0.115 mol) in tetrahydrofuran (461 mL), cooled to 0° C., was added borane/tetrahydrofuran complex (461 mL of a 1.0M solution in tetrahydrofuran) dropwise. After 1 h at 0° C., the solution was warmed to room temperature over a period of 1.5 h. TLC indicated that the reaction was complete. Methanol was added to quench the reaction. The solution was concentrated to yield the title compound (22.56 g, 96%) as a foamy syrup. TLC of the products indicated satisfactory purity. Rf=0.34 (40% ethyl acetate/hexanes).

reactant | Boc-norvaline | 0.115 mol, 25.0 g | C(=O)(OC(C)(C)C)N[C@@H](CCC)C(=O)O | C10H19NO4
reactant | Methanol | CO | CH4O
solvent | tetrahydrofuran | 461 mL | O1CCCC1 | C4H8O
product | Boc-Norvalinol | 22.56 g, 96% | C(=O)(OC(C)(C)C)N[C@@H](CCC)CO | C10H21NO3
